US08470820B2
Step 1: 2-Pyridin-2-yl-thiazol-5-carboxylic acid methyl ester
To a suspension of 2-bromo-1,3-thiazole-5-carboxylic acid methyl ester (0.5 g, 2.25 mmol) and Pd(PPh3)4 (0.13 g, 0.11 mmol) in THF (12.5 ml) was added bromo-(pyridine-2-yl)-zinc (6.75 ml, 0.5M THF solution) under inert gas atmosphere. The reaction mixture was irradiated under microwave conditions at 120° C. for 10 min. The solvent was removed and the product was obtained after purification by silica gel chromatography using a heptane/ethyl acetate gradient as yellow crystals (0.34 g, 68%) MS: M=221.2 (M+H)+

reactant | 2-bromo-1,3-thiazole-5-carboxylic acid methyl ester | 2.25 mmol, 0.5 g | COC(=O)C1=CN=C(S1)Br | C5H4BrNO2S
reactant | bromo-(pyridine-2-yl)-zinc | 0.5M, 6.75 ml | Br[Zn]C1=NC=CC=C1
solvent | THF | 12.5 ml | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.11 mmol, 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Pyridin-2-yl-thiazol-5-carboxylic acid methyl ester | COC(=O)C1=CN=C(S1)C1=NC=CC=C1 | C10H8N2O2S
